US07271264B2
Add a solution of 2-(1,3-dioxolan-2-yl)phenylmagnesium bromide (15 mL of 0.5 M/THF, 7.5 mmol) to a stirred solution of (2-dimethylamino-6-methoxy-benzo[b]thiophen-3-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (650 mg, 1.48 mmol) in THF (5 mL) at r.t. Stir the reaction mixture at r.t. for 2 h and quench with aq. NaHCO3. Dilute with CH2Cl2 and wash with water and brine, dry over MgSO4, filter and concentrate to afford [2-(2-[1,3]dioxolan-2-yl-phenyl)-6-methoxy-benzo[b]thiophen-3-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone. Use the product without further purification.

reactant | 2-(1,3-dioxolan-2-yl)phenylmagnesium bromide | 7.5 mmol, 0.5 M, 15 mL | O1C(OCC1)C1=C(C=CC=C1)[Mg]Br
reactant | (2-dimethylamino-6-methoxy-benzo[b]thiophen-3-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.48 mmol, 650 mg | CN(C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C | C25H30N2O3S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2-(2-[1,3]dioxolan-2-yl-phenyl)-6-methoxy-benzo[b]thiophen-3-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | O1C(OCC1)C1=C(C=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C32H33NO5S
